US08541575B2
3-(3-nitrophenyl)-1H-pyrazole
2.5 g (11 mmol) of (2E)-3-(dimethylamino)-1-(3-nitrophenyl)prop-2-en-1-one were dissolved in 25 ml of ethanol and 2.3 ml of hydrazine hydrate 98% (46 mmol) were added. The resulting solution was refluxed under stirring for 5 hours. The solvent was then evaporated and the crude was dissolved with dichloromethane and washed with water. The organic layer was dried over sodium sulphate and the solvent removed in vacuo. The residue was then triturated with diisopropylether and collected by filtration, giving 2.1 g of the title compound (98%).

reactant | (2E)-3-(dimethylamino)-1-(3-nitrophenyl)prop-2-en-1-one | 11 mmol, 2.5 g | CN(/C=C/C(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C11H12N2O3
reactant | hydrazine hydrate | 46 mmol, 2.3 ml | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(3-nitrophenyl)-1H-pyrazole | 2.1 g, 98% | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC=C1 | C9H7N3O2
